US07776886B2
A solution of 1-[4-(cyclopropylmethyl)-1-(ethylsulfonyl)piperidin-4-yl]methanamine (I-5, 250 mg, 1.0 mmol) in CH2Cl2 (10 mL) at 0° C. was treated with i-Pr2NEt (1 mL, 5.7 mmol), 2,4-dichlorobenzoyl chloride (200 μL, 1.43 mmol), and stirred for 15 min before being warmed to room temperature. After 1 h, the reaction was quenched with the addition of 1 M aqueous NaOH (10 mL) and stirred 1 h before being extracted with CH2Cl2 (3×20 mL). The combined organic extracts were dried (Na2SO4), concentrated under reduced pressure, and purified by reverse phase HPLC to afford 2,4-dichloro-N-{[4-(cyclopropylmethyl)-1-(ethylsulfonyl)piperidin-4-yl]methyl}benzamide (I-6) as an off-white amorphous solid. Analytical LCMS: single peak (214 nm), 3.328 min. 1H NMR (CDCl3, 300 MHz) δ 7.64 (d, J=8.4 Hz, 1 H), 7.46 (s, 1H), 7.35 (d, J=8.4 Hz, 1H), 6.39 (t, J=8 Hz, 1H), 3.63 (d, J=6.3 Hz, 2H), 3.41 (m, 2H), 3.35 (m, 2H), 2.98 (q, J=7.2 Hz, 1H), 1.68 (m, 5H), 1.39 (m, 5H), 0.68 (m, 1H), 0.56 (d, J=8 Hz, 1H). HRMS m/z 433.1091 (C19H26Cl2N2O3S+H+ requires 433.1091).

reactant | 1-[4-(cyclopropylmethyl)-1-(ethylsulfonyl)piperidin-4-yl]methanamine | 1.0 mmol, 250 mg | C1(CC1)CC1(CCN(CC1)S(=O)(=O)CC)CN | C12H24N2O2S
reactant | i-Pr2NEt | 5.7 mmol, 1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,4-dichlorobenzoyl chloride | 1.43 mmol, 200 μL | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2,4-dichloro-N-{[4-(cyclopropylmethyl)-1-(ethylsulfonyl)piperidin-4-yl]methyl}benzamide | ClC1=C(C(=O)NCC2(CCN(CC2)S(=O)(=O)CC)CC2CC2)C=CC(=C1)Cl | C19H26Cl2N2O3S
